US05326908
A solution of 31.5 ml. sulfuric acid in 295 ml. methanol was treated with 66.5 g. L-aspartic acid, and heated at 40-45° C. for 4 hours. The solution was cooled to 24° C., and treated with 28% aqueous ammonia to a pH of 2.5. The mixture was concentrated under vacuum to a thick slurry. The slurry was treated with 750 ml. of 28% aqueous ammonia and 20 ml. water, and stirred at 24° C. for 3.5 hours. The mixture was concentrated under vacuum nearly to dryness, redissolved in 75 ml. water at 55° C., adjusted to pH of 5.4 with excess ammonia, and then cooled to 24° C. The solid was collected by filtration, washed and dried, and finally recrystallized from another 75 ml. water to yield 31.0 g asparagine monohydrate.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | L-aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | asparagine monohydrate | 31.0 g | O.N[C@@H](CC(N)=O)C(=O)O | InChI=1S/C4H8N2O3.H2O/c5-2(4(8)9)1-3(6)7;/h2H,1,5H2,(H2,6,7)(H,8,9);1H2/t2-;/m0./s1
